US09326987B2
6-Bromo-1-methyl-1H-indazole-4-carboxylic acid
Lithium hydroxide (156 mg, 6.51 mmol) was added to a stirred suspension of methyl 6-bromo-1-methyl-1H-indazole-4-carboxylate (730 mg, 2.71 mmol) in tetrahydrofuran (THF) (25 ml) and water (5 ml) and the reaction mixture was stirred at room temperature for 1 h. During this time the cream suspension turned to a pale brown solution. The reaction mixture was poured onto 2N HCl (100 ml) with stirring. The precipitate formed was filtered off under vacuum and dried at 50° C. in a vacuum oven for 18 h to give the title compound as a white solid (480 mg).

reactant | Lithium hydroxide | 6.51 mmol, 156 mg | [OH-].[Li+]
reactant | methyl 6-bromo-1-methyl-1H-indazole-4-carboxylate | 2.71 mmol, 730 mg | BrC=1C=C(C=2C=NN(C2C1)C)C(=O)OC | C10H9BrN2O2
reactant | HCl | 2N, 100 ml | Cl | ClH
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | 6-Bromo-1-methyl-1H-indazole-4-carboxylic acid | 480 mg | BrC=1C=C(C=2C=NN(C2C1)C)C(=O)O | C9H7BrN2O2
